US09029536B2
B) 2-[2-Fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-3-methyl-3H-imidazo[4,5-b]pyridine
The mixture of 2-(4-bromo-2-fluorophenoxy)-3-methyl-3H-imidazo[4,5-b]pyridine (685 mg), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (810 mg), Pd(dppf)2Cl2 (22.7 mg) and KOAc (626 mg) in THF (10 mL)-DMSO (0.5 mL) was stirred at 80° C. under N2 atmosphere for 5 h. The mixture was diluted with AcOEt and filtered on silica gel conditioned with AcOEt. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt in hexane) to give the title compound (781 mg).

reactant | 2-(4-bromo-2-fluorophenoxy)-3-methyl-3H-imidazo[4,5-b]pyridine | 685 mg | BrC1=CC(=C(OC2=NC=3C(=NC=CC3)N2C)C=C1)F | C13H9BrFN3O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 810 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 626 mg | CC(=O)[O-].[K+]
reactant | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)2Cl2 | 22.7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[2-Fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-3-methyl-3H-imidazo[4,5-b]pyridine | 781 mg | FC1=C(OC2=NC=3C(=NC=CC3)N2C)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C19H21BFN3O3
